US07141598B2
(i) Production of 4-(tetrahydro-2H-pyran-2-yloxy)-1-(1-trityl-1H-imidazol-4-yl)butan-1-one
4-(Tetrahydro-2H-pyran-2-yloxy)-1-(1-trityl-1H-imidazol-4-yl)-2-butyn-1-one (29.63 g) was dissolved in a mixture of ethyl acetate (200 ml) and tetrahydrofuran (800 ml). 10% Palladium carbon (2.6 g) was added and the mixture was stirred at room temperature for 3 h under a hydrogen atmosphere. 10% Palladium carbon was removed by filtration and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent; ethyl acetate) to give the title compound (28.53 g) as a brown solid.

reactant | 4-(Tetrahydro-2H-pyran-2-yloxy)-1-(1-trityl-1H-imidazol-4-yl)-2-butyn-1-one | 29.63 g | O1C(CCCC1)OCC#CC(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H28N2O3
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
catalyst | Palladium carbon | 2.6 g | [C].[Pd]
product | 4-(tetrahydro-2H-pyran-2-yloxy)-1-(1-trityl-1H-imidazol-4-yl)butan-1-one | 28.53 g | O1C(CCCC1)OCCCC(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H32N2O3
